US04529791
Into a mixture of 272.4 parts by weight of 4,4'-dihydroxy diphenyl-2,2-propane (bisphenol A), 145 parts by weight of sodium hydroxide, 1045 parts by weight of deionized water, 1330 parts by weight (1.0 liter) of methylene chloride and 5.55 parts by weight p-tertbutylphenol, 150 parts by weight of carbonyl chloride were added over a period of 0.5 hour with stirring and at a temperature of 25° C. This resulted in solution of bisphenol A polycarbonate oligomers in methylene chloride at a concentration of about 23 percent by weight in the organic phase

reactant | 4,4'-dihydroxy diphenyl-2,2-propane | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O | C15H16O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-tertbutylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | carbonyl chloride | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 liter | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | bisphenol A polycarbonate | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C(=O)(O)O | InChI=1S/C15H16O2.CH2O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2-1(3)4/h3-10,16-17H,1-2H3;(H2,2,3,4)
